US08207134B2
2) Synthesis of methyl 3-ethoxycarbonylmethyl-benzo[b]thiophene-7-carboxylate
Under a nitrogen stream, to methyl 2-(3-ethoxycarbonyl-2-oxo-propylsulfanyl)-benzoate (8.02 g, 27.1 mmol) was added polyphosphoric acid (25 g) at room temperature, and the resultant solution was stirred for 1 hour at 80° C. Under ice-cooling, to the solution was added water, and the resultant mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and dried over anhydrous magnesium sulfate. Solvent was then removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:3)), to thereby obtain the titled compound (2.77 g, 37%).

reactant | methyl 2-(3-ethoxycarbonyl-2-oxo-propylsulfanyl)-benzoate | 27.1 mmol, 8.02 g | C(C)OC(=O)CC(CSC1=C(C(=O)OC)C=CC=C1)=O | C14H16O5S
solvent | water | O | H2O
product | methyl 3-ethoxycarbonylmethyl-benzo[b]thiophene-7-carboxylate | 2.77 g, 37% | C(C)OC(=O)CC=1C2=C(SC1)C(=CC=C2)C(=O)OC | C14H14O4S
